US08293914B2
To a solution of ethyl 1-[(5-bromopyridin-2-yl)methyl]-5,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (3.00 g, 7.09 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (5.42 g, 18.4 mmol), and 1 N cesium carbonate (14.2 mL, 14.2 mmol) in 50 mL of THF under nitrogen was added bis(tri-tert-butylphosphoranyl)palladium (10 mol %). The reaction mixture was heated to 100° C. for 20 hours, then cooled to room temperature. Ethyl acetate (100 mL) and water (100 mL) were added, and the resultant brown solid was collected to provide ethyl 5,8-difluoro-4-oxo-1-{[5-(1H-pyrazol-4-yl)pyridin-2-yl]methyl}-1,4-dihydroquinoline-3-carboxylate that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 411.0 for M+H+.

reactant | ethyl 1-[(5-bromopyridin-2-yl)methyl]-5,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 7.09 mmol, 3.00 g | BrC=1C=CC(=NC1)CN1C=C(C(C2=C(C=CC(=C12)F)F)=O)C(=O)OCC | C18H13BrF2N2O3
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 18.4 mmol, 5.42 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | cesium carbonate | 14.2 mmol, 1 N, 14.2 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphoranyl)palladium | C(C)(C)(C)P(C(C)(C)C)(C(C)(C)C)[Pd]P(C(C)(C)C)(C(C)(C)C)C(C)(C)C
solvent | water | 100 mL | O | H2O
product | ethyl 5,8-difluoro-4-oxo-1-{[5-(1H-pyrazol-4-yl)pyridin-2-yl]methyl}-1,4-dihydroquinoline-3-carboxylate | FC1=C2C(C(=CN(C2=C(C=C1)F)CC1=NC=C(C=C1)C=1C=NNC1)C(=O)OCC)=O | C21H16F2N4O3
